US04399134
An autoclave containing a mixture of 3 g of 9-fluoro-8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 8 g of morpholine and 30 ml of hexamethylphosphoric triamide was immersed in an oil bath at 190° C. and reaction was continued for 5 hours. After completion of reaction, the reaction mixture was cooled to precipitate crystals which then were collected by filtration. The crystals thus obtained were recrystallized from dimethylformamide to give 0.77 g of 9-morpholino-8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. m.p. 271° to 274° C., white rhombic crystals.

reactant | 9-fluoro-8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)Cl | C14H11ClFNO3
reactant | morpholine | 8 g | N1CCOCC1 | C4H9NO
solvent | hexamethylphosphoric triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 9-morpholino-8-chloro-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.77 g | O1CCN(CC1)C1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)Cl | C18H19ClN2O4
